US07176242B2
Methyl 5-(bromomethyl)thiophene-2-carboxylate
To an ice-cold solution of methyl 5-(hydroxymethyl)thiophene-2-carboxylate (375 mg, 2.17 mmol) in methylene chloride (9.0 mL) is added phosphorus tribromide (100 μL, 1.08 mmol) and the reaction mixture is stirred at 0° C. for 0.5 h. Saturated sodium bicarbonate (10 mL) is carefully added to the reaction mixture and the phases are separated. The organic phase is washed with water, dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield the title compound in pure form. ESI MS m/z 235 [M+H]+.

reactant | methyl 5-(hydroxymethyl)thiophene-2-carboxylate | 2.17 mmol, 375 mg | OCC1=CC=C(S1)C(=O)OC | C7H8O3S
reactant | phosphorus tribromide | 1.08 mmol, 100 μL | P(Br)(Br)Br | Br3P
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 9.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-(bromomethyl)thiophene-2-carboxylate | BrCC1=CC=C(S1)C(=O)OC | C7H7BrO2S
